US06800638B2
8-(3,4-Dihydro-1H-isoquinolin-2-yl)-octanoic acid hydroxyamide
200 mg (0.53 mmol) 8-(3,4-dihydro-1H-isoquinolin-2-yl)-octanoic acid benzyloxy-amide in 30 ml methanol was hydrogenated for 1 h in the presence of palladium on barium sulfate at ambient temperature and pressure. The catalyst was removed by filtration and the solvent was evaporated. There was thus obtained 150 mg (98%) 8-(3,4-dihydro-1H-isoquinolin-2-yl)-octanoic acid hydroxyamide as an amorphous solid. MS: 291 (M+H+).

reactant | 8-(3,4-dihydro-1H-isoquinolin-2-yl)-octanoic acid benzyloxy-amide | 0.53 mmol, 200 mg | C(C1=CC=CC=C1)ONC(CCCCCCCN1CC2=CC=CC=C2CC1)=O | C24H32N2O2
solvent | methanol | 30 ml | CO | CH4O
catalyst | palladium on barium sulfate | [Pd] | Pd
product | 8-(3,4-Dihydro-1H-isoquinolin-2-yl)-octanoic acid hydroxyamide | ONC(CCCCCCCN1CC2=CC=CC=C2CC1)=O | C17H26N2O2
